US05482950
50 mg of (6-methoxy-2-(4-oxocyclohexyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone is dissolved in 4 mL of methanol and 0.5 mL of THF and cooled with ice. 6 mg of sodium borohydride is added, and this mixture is agitated at 0° C. for 15 minutes. Water is added to the reaction mixture, and the organic layer is extracted with ethyl acetate, then washed with water and dried with anhydrous sodium sulfate, after which the solvent is distilled off. The crude product thus obtained is refined by TLC (developing solvent was chloroform:methanol=19:1), which gives 32 mg of [6-methoxy-2-(4-hydroxycyclohexyl)benzo[b]thien-3-yl)[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone.

reactant | (6-methoxy-2-(4-oxocyclohexyl)benzo[b]thien-3-yl][4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 50 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2CCC(CC2)=O)C1 | C29H33NO4S
reactant | THF | 0.5 mL | C1CCOC1 | C4H8O
reactant | sodium borohydride | 6 mg | [BH4-].[Na+]
reactant | Water | O | H2O
solvent | methanol | 4 mL | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | [6-methoxy-2-(4-hydroxycyclohexyl)benzo[b]thien-3-yl)[4-[2-(1-piperidinyl)ethoxy]phenyl]methanone | 32 mg | COC=1C=CC2=C(SC(=C2C(=O)C2=CC=C(C=C2)OCCN2CCCCC2)C2CCC(CC2)O)C1 | C29H35NO4S
